US07279491B2
2-(4-Hydroxymethyl-piperidin-1-yl)-benzaldehyde
Prepared from 2-fluorobenzaldehyde and 4-hydroxymethylpiperidine.

reactant | 2-fluorobenzaldehyde | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | 4-hydroxymethylpiperidine | OCC1CCNCC1 | C6H13NO
product | 2-(4-Hydroxymethyl-piperidin-1-yl)-benzaldehyde | OCC1CCN(CC1)C1=C(C=O)C=CC=C1 | C13H17NO2
